US07662771B2
Add a solution of sodium hydroxide (2.60 g, 65 mmol) in water (50 mL) to a solution of 7-[5-(5-chloro-2-hydroxyphenyl)thiazol-2-yl]heptanoic acid methyl ester (5.76 g, 16 mmol) in methanol (100 mL) at 0° C. under nitrogen, warm the mixture to room temperature, and stir for a total of 1.5 hours. Remove the solvent under reduced pressure, dilute the residue with water (200 mL), cool to 0° C., and acidify to pH 1 with 1 N HCl. Collect the precipitate by filtration to afford 7-[5-(5-chloro-2-hydroxyphenyl)thiazol-2-yl]heptanoic acid (5.21 g, 95%): APCI mass spectrum m/z 338 [C16H18ClNO3S−H]—.

reactant | sodium hydroxide | 65 mmol, 2.60 g | [OH-].[Na+]
reactant | 7-[5-(5-chloro-2-hydroxyphenyl)thiazol-2-yl]heptanoic acid methyl ester | 16 mmol, 5.76 g | COC(CCCCCCC=1SC(=CN1)C1=C(C=CC(=C1)Cl)O)=O | C17H20ClNO3S
solvent | water | 50 mL | O | H2O
solvent | methanol | 100 mL | CO | CH4O
product | 7-[5-(5-chloro-2-hydroxyphenyl)thiazol-2-yl]heptanoic acid | 5.21 g, 95% | ClC=1C=CC(=C(C1)C1=CN=C(S1)CCCCCCC(=O)O)O | C16H18ClNO3S
